US04536499
Step D 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(4-dimethylaminobutyl)-indole
A solution of 5.3 grams (0.015 mole) of 2-(3-ethyl-5-methyl-4-isoxazolyl)-N,N-dimethyl- -oxo-indole-3-butanamide in 75 ml dry THF is added dropwise to a refluxing suspension of 1.71 grams (0.045 mole) of LiAlHy and 50 ml THF. The mixture is refluxed 2 hours after addition and then cooled and quenched by the addition of ethyl acetate, 2N sodium hydroxide and water. The mixture is filtered and the THF evaporated. The residue is dissolved in CH2Cl2, washed with water, dried over MgSO4, filtered and evaporated. The residue is dissolved in ether and converted to the hydrochloride salt with gaseous HCl giving the title compound as the hydrochloride, m.p. 155.5°-157.5° C.

reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-N,N-dimethyl- -oxo-indole-3-butanamide | 0.015 mole, 5.3 grams | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CCC(C(=O)N(C)C)=O)C | C20H23N3O3
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(4-dimethylaminobutyl)-indole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CCCCN(C)C)C | C20H27N3O
